US06169107A
The reaction was carried out in a manner similar to Reference Example 12 b) except for using 14.6 g (46.9 mmol) of 3-benzyloxy-6-trifluoromethyl-2-nitrotoluene, 13.7 g (93.8 mmol) of diethyl oxalate, 7.90 g (93.8 mmol) of potassium ethoxide and 300 ml of diethyl ether. Ethyl (3-benzyloxy-6-trifluoromethyl-2-nitrophenyl)pyruvate was thus obtained in the yield of 10.9 g (56.9%).

reactant | 3-benzyloxy-6-trifluoromethyl-2-nitrotoluene | 46.9 mmol, 14.6 g | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)C(F)(F)F)C)[N+](=O)[O-] | C15H12F3NO3
reactant | diethyl oxalate | 93.8 mmol, 13.7 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium ethoxide | 93.8 mmol, 7.90 g | [O-]CC.[K+]
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | Ethyl (3-benzyloxy-6-trifluoromethyl-2-nitrophenyl)pyruvate | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)C(F)(F)F)CC(C(=O)OCC)=O)[N+](=O)[O-] | C19H16F3NO6
